US05360808
1,6-Dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid
1,6-dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester (0.39 g, 1.3 mmol) was hydrolysed in a mixture of methanol (3.9 ml), water (3.9 ml), and 15% aqueous sodium carbonate (3.9 ml) at 65°-70° C. for 1.5 hours. The solution was acidified (to pH 5.5 with acetic acid). The precipitated product was recovered by filtration, washed with water, and dried, MP: >295 ° C.

reactant | 1,6-dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester | 1.3 mmol, 0.39 g | COC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C=1C=NC=CC1 | C15H15N3O4
reactant | water | 3.9 ml | O | H2O
reactant | sodium carbonate | 3.9 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 3.9 ml | CO | CH4O
product | 1,6-Dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid | N1=CC(=CC=C1)C(=O)NCCN1C=C(C=CC1=O)C(=O)O | C14H13N3O4
